US07576122B2
N-(3,3-Dimethylbutyl)-2-[2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzofuran-3-yl]acetamide
To a mixture of 29 mg [2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzofuran-3-yl]acetic acid from the Step B Example 1, 23 mg HOBt, and 38.3 mg EDC was added 1 mL dry DMF. Add 24.9 mg (3,3-dimethylbutyl)amine hydrochloride followed by 61 μL DIEA. This solution was heated at 45° C. for 2 hours. It was purified directly on RP-HPLC using 60-75% MeCN gradient. The fractions containing pure product were pooled and lyophilized to give the title compound. LC-MS: 4.08 min. (m/Z=290.1, 374.2, 396.2).

reactant | [2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzofuran-3-yl]acetic acid | 29 mg | CC(C(=O)C=1OC2=C(C1CC(=O)O)C=C(C=C2)OC)(C)C | C16H18O5
reactant | HOBt | 23 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (3,3-dimethylbutyl)amine hydrochloride | 24.9 mg | Cl.CC(CCN)(C)C
reactant | DIEA | 61 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EDC | 38.3 mg
product | N-(3,3-Dimethylbutyl)-2-[2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzofuran-3-yl]acetamide | CC(CCNC(CC1=C(OC2=C1C=C(C=C2)OC)C(C(C)(C)C)=O)=O)(C)C | C22H31NO4
